US09056858B2
To a solution of 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbonitrile (1.16 g, 5.20 mmol) in toluene (30 mL) is added DIBAL-H (10.4 mL, 1M in toluene) at −78° C. The mixture is stirred 1 hour at −78° C. and warmed to room temperature. After 1 hour, ethyl acetate (30 mL) is added, followed by 1M aqueous solution of H2SO4 (30 mL). Phases are separated and the aqueous layer is extracted with ethyl acetate (3×50 mL). The combined organic layers are dried over MgSO4, filtered and concentrated to afford crude 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbaldehyde (ES+ m/z 226.48; 228.47), which is used without purification.

reactant | 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbonitrile | 5.20 mmol, 1.16 g | BrC1=NC=CC(=C1)C1(CC1)C#N | C9H7BrN2
reactant | DIBAL-H | 1M, 10.4 mL | CC(C)C[AlH]CC(C)C
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-bromo-pyridin-4-yl)-cyclopropanecarbaldehyde | BrC1=NC=CC(=C1)C1(CC1)C=O | C9H8BrNO
